US04388243
(2) Synthesis of 1α,3β,24(R)-triethoxycarbonyloxycholesta-5,7-diene
A solution of 1α,3β,24(R)-triethoxycarbonyloxycholest-5-ene (3.49 g, 5.5 m moles), dry hexane (58 ml) and 1,3-dibromo-5,5-dimethylhydantoin (998 mg, 3.3 m moles) was boiled under the irradiation of infrared rays for 15 minutes. The reaction mixture was cooled, and the resulting 5,5-dimethylhydantoin and the excessive 1,3-dibromo-5,5-dimethylhydantoin were removed by filtration. The filtrate was concentrated at reduced pressure to afford a residual product. Xylene was added to this substance to form a solution. The resulting solution was added dropwise to a solution held 170° C. of s-collidine (14.5 ml) in dry xylene (19 ml), and the reaction was carried out for additional 20 minutes. After the reaction, the hydrobromide of s-collidine was removed by filtration and the filtrate was concentrated under reduced pressure at 40° C. to give residual product. The residue was dissolved in ethylacetate (200 ml). The organic phase was washed with 1 N hydrochloric acid (3×10 ml), saturated sodium bicarbonate solution and water, and dried over anhydrous sodium sulfate. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure to give 3.68 g of residual product.

reactant | 1α,3β,24(R)-triethoxycarbonyloxycholest-5-ene | 3.49 g | C(C)OC(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CC[C@H](C(C)C)OC(=O)OCC)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OCC | C36H58O9
reactant | hexane | 58 ml | CCCCCC | C6H14
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 998 mg | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | s-collidine | 14.5 ml | CC1=CC(=NC(=C1)C)C | C8H11N
solvent | xylene | 19 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethylacetate | 200 ml | C(C)OC(C)=O | C4H8O2
product | 1α,3β,24(R)-triethoxycarbonyloxycholesta-5,7-diene | 3.68 g | C(C)OC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CC[C@H](C(C)C)OC(=O)OCC)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OCC | C36H56O9
